US08071651B2
a) tert-Butyl [1-{2-[3-cyano-1-(3-methoxypropyl)-1H-indol-6-ylmethyl]-3-methylbutyl}-4-((R)-(6-oxaspiro[2.5]oct-1-yl)carbamoyl)-2-hydroxy-5-methylhexyl]carbamate
A solution of 1 mmol of tert-butyl (4-((R)-(6-oxaspiro[2.5]-oct-1-yl)carbamoyl)-2-hydroxy-1-(2-[1-(3-methoxypropyl)-1H-indol-6-ylmethyl]-3-methylbutyl)-5-methylhexyl)carbamate in 15 ml of dichloromethane is mixed with 1.5 mmol of chlorosulphonyl isocyanate and stirred at room temperature for 16 hours. 2 ml of N,N-dimethylformamide are added, and the reaction mixture is again stirred for 2 hours. It is quenched with water, and the suspension is vigorously stirred for 10 minutes. It is poured into 1M sodium bicarbonate solution and extracted with ethyl acetate (3×). The combined organic phases are washed with brine, dried with sodium sulphate and evaporated. The title compound is identified by means of the Rf from the residue by flash chromatography (SiO2 60 F).

reactant | tert-butyl (4-((R)-(6-oxaspiro[2.5]-oct-1-yl)carbamoyl)-2-hydroxy-1-(2-[1-(3-methoxypropyl)-1H-indol-6-ylmethyl]-3-methylbutyl)-5-methylhexyl)carbamate | 1 mmol | [C@H]1(CC12CCOCC2)NC(=O)C(CC(C(CC(C(C)C)CC2=CC=C1C=CN(C1=C2)CCCOC)NC(OC(C)(C)C)=O)O)C(C)C | C38H61N3O6
reactant | chlorosulphonyl isocyanate | 1.5 mmol | ClS(=O)(=O)N=C=O | CClNO3S
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | tert-Butyl [1-{2-[3-cyano-1-(3-methoxypropyl)-1H-indol-6-ylmethyl]-3-methylbutyl}-4-((R)-(6-oxaspiro[2.5]oct-1-yl)carbamoyl)-2-hydroxy-5-methylhexyl]carbamate | C(#N)C1=CN(C2=CC(=CC=C12)CC(CC(C(CC(C(C)C)C(N[C@@H]1CC12CCOCC2)=O)O)NC(OC(C)(C)C)=O)C(C)C)CCCOC | C39H60N4O6
